US05602277
Methyl 3-[1-(R,S)-hydroxy-2-nitroethyl]-4-[(methylsulfonyl)amino]benzoate (200 mg, 0.63 mmol) was dissolved in ethanol (10 mL) and hydrogenated at 50 psi in the presence of platinum oxide (Aldrich, 20 mg) for 8 h. The catalyst was removed by filtration through Celite and the filtrate concentrated to 5 mL. To the concentrate, ethyl acetate (5 mL) and hexane (10 mL) were added and the mixture cooled to 0° C. A white precipitate formed which was collected by filtration. The cake was washed with ethyl acetate:hexane (1:1) and dried to give 100 mg (55%) of methyl 3-[2-amino-1-(R,S)-hydroxyethyl]-4-[(methylsulfonyl)amino]benzoate as a white powder, mp 172°-173° C. (dec).

reactant | Methyl 3-[1-(R,S)-hydroxy-2-nitroethyl]-4-[(methylsulfonyl)amino]benzoate | 0.63 mmol, 200 mg | OC(C[N+](=O)[O-])C=1C=C(C(=O)OC)C=CC1NS(=O)(=O)C | C11H14N2O7S
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | platinum oxide | 20 mg | [Pt]=O
product | methyl 3-[2-amino-1-(R,S)-hydroxyethyl]-4-[(methylsulfonyl)amino]benzoate | 100 mg, 55% | NCC(O)C=1C=C(C(=O)OC)C=CC1NS(=O)(=O)C | C11H16N2O5S
